US06211199B1
47.1 Synthesis of 1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1-(2-cyanoethyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-(3,4-difluorophenyl)pyrrolidine
Combine 1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-(3,4-difluorophenyl)pyrrolidine (0.145 g, 0.23 mmol) and tetrahydrofuran (5 mL). Cool to −78° C. using a dry-ice/acetone bath. Add a solution of s-butyl lithium (0.22 mL, 1.3 M in hexane, 0.28 mmol). After 30 minutes, add acrylonitrile (0.015 g, 0.28 mmol). Allow to warm to ambient temperature and then heat to reflux. After 12 hours, add water and separate the layers. Extract the aqueous layer three times with ethyl acetate. Combine the organic layers, dry over Na2SO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting with 3/0.5/96.5 methanol/concentrated ammonium hydroxide/dichloromethane to give the title compound: Rf=0.61 (silica gel, 5/0.5/94.5 methanol/concentrated ammonium hydroxide/dichloromethane).

reactant | 1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-(3,4-difluorophenyl)pyrrolidine | 0.23 mmol, 0.145 g | COC=1C=C(C(=O)N2CC(CC2)(C2=CC(=C(C=C2)F)F)CCN2CCC(CC2)NC2=NC3=C(N2)C=CC=C3)C=C(C1OC)OC | C34H39F2N5O4
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
reactant | s-butyl lithium | 0.28 mmol, 1.3 M, 0.22 mL | C(C)(CC)[Li]
reactant | acrylonitrile | 0.28 mmol, 0.015 g | C(C=C)#N | C3H3N
solvent | methanol | CO | CH4O
solvent | water | O | H2O
product | 1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1-(2-cyanoethyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-(3,4-difluorophenyl)pyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(C2=CC(=C(C=C2)F)F)CCN2CCC(CC2)NC2=NC3=C(N2CCC#N)C=CC=C3)C=C(C1OC)OC | C37H42F2N6O4
